US07521443B2
To a solution of chlorosulfonyl isocyanate (1.230 ml, 14.13 mmol) in DCM (10 ml) was added tert-BuOH (1.351 ml, 14.13 mmol) at 0° C. dropwise. The mixture was stirred at room temperature for 1 h and added a solution of N-methylpropan-2-amine (1.57 ml, 14.13 mmol) and TEA (2.167 ml, 15.54 mmol) in DCM (3 ml) at 0° C. The mixture was stirred at room temperature for 2 h and diluted with EtOAc, washed with cold 1N HCl, brine, dried (MgSO4), removed the solvent and purified by Biotage 40M column (EtOAc-MeOH (90-10)/hexane 5% to 100%) to afford a colorless gel (2.3 g, 64.5%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.19 (d, J=6.55 Hz, 6H) 1.49 (s, 9H) 2.90 (s, 3H) 4.05-4.26 (m, 1H) 7.02 (br. s., 1H). To tert-butyl N-isopropyl-N-methylsulfamoylcarbamate (2.3 g, 9.12 mmol) was added cold HCl (dioxane, 6 mL, 24.00 mmol) and stirred at room temperature for 2 h, removed the solvent to afford N-isopropyl-N-methylsulfamide as a light tan solid (1.38 g, 99%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.16 (d, J=6.80 Hz, 5H) 2.72 (s, 3H) 4.16 (dt, J=13.53, 6.70 Hz, 1H) 4.43 (br. s., 1H).

reactant | tert-butyl N-isopropyl-N-methylsulfamoylcarbamate | 9.12 mmol, 2.3 g | C(C)(C)N(C(OC(C)(C)C)=O)S(NC)(=O)=O | C9H20N2O4S
reactant | HCl | 24.00 mmol, 6 mL | Cl | ClH
product | N-isopropyl-N-methylsulfamide | 1.38 g, 99% | C(C)(C)N(S(=O)(=O)N)C | C4H12N2O2S
